US04450157
6.4 g (0.04 mol) of crude 2,2-dimethyl-4-methylthio-3-thiazoline are dissolved in 40 ml of water and the solution is treated with 3.6 g (0.052 mol) of sodium nitrite and subsequently treated dropwise at 10° C. with 6.1 ml (0.11 mol) of acetic acid. After stirring the mixture for 3 hours, 3.6 g of sodium nitrite and 6.1 ml of acetic acid are added theretoand the mixture is allowed to stir for an additional 16 hours. The mixture is then diluted with water and the precipitated crystals are filtered off,to yield 5-oxo-2,2-dimethyl-4-methylthio-3-thiazoline oxime, m.p. 168°-171° C.

reactant | 2,2-dimethyl-4-methylthio-3-thiazoline | 0.04 mol, 6.4 g | CC1(SCC(=N1)SC)C | C6H11NS2
reactant | sodium nitrite | 0.052 mol, 3.6 g | N(=O)[O-].[Na+]
reactant | acetic acid | 0.11 mol, 6.1 ml | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 3.6 g | N(=O)[O-].[Na+]
reactant | acetic acid | 6.1 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
product | 5-oxo-2,2-dimethyl-4-methylthio-3-thiazoline oxime | N(O)=C1C(=NC(S1)(C)C)SC | C6H10N2OS2
